US04683241
4-(2-methyl-2-carboxy-propionyloxy)-benzophenone
To a solution of 2 g (12 mmol) of dimethylmalonyl chloride in 19 ml of methylene chloride, a solution of 2 g (10 mmol) of 4-hydroxybenzophenone in 10 ml of pyridine was added over 15 min at -5° C. The mixture was stirred at 0° C. for 0.5 h, allowed to warm to 25° C. over 1 h, then stripped of the solvent, and finally stirred with 1:1 ethyl acetate-water for 1.5 h at 25° C. The organic phase was washed with cold 2% hydrochloric acid, then with water, and finally extracted with 5% sodium bicarbonate solution. The aqueous extract was acidified to pH 3 and filtered to collect crude product, which was purified by recrystallization from EtOH-water to yield the title compound. 0.325 g (10%); M.P.~147°-150° C.

reactant | dimethylmalonyl chloride | 12 mmol, 2 g | CC(C(=O)Cl)(C(=O)Cl)C | C5H6Cl2O2
reactant | 4-hydroxybenzophenone | 10 mmol, 2 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | methylene chloride | 19 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-(2-methyl-2-carboxy-propionyloxy)-benzophenone | CC(C(=O)OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1)(C)C(=O)O | C18H16O5
